US09416110B2
(R)-tert-butyl 4-(6-iodo-5-(4-methoxy-4-oxobutan-2-yl)pyrimidin-4-yl)piperazine-1-carboxylate
Into a solution of (R)-methyl 3-(4,6-diiodopyrimidin-5-yl)butanoate (212 g, 491 mmol) and Boc-piperazine (101 g, 540 mmol) in methanol (424 mL) was added N,N-diisopropylethylamine (94.3 mL, 540 mmol). The mixture was heated at 60° C. for 24 h. Methanol was distilled off under reduced pressure below 40° C. To the mixture was added 318 mL of tetrahydrofuran. The above solvent swap process was repeated twice. To the mixture were added 424 mL of tetrahydrofuran, 212 mL of saturated aqueous ammonium chloride, and 21.2 mL of water. The organic layer was washed with 212 mL (1.00 vol.) of saturated aqueous ammonium chloride. This tetrahydrofuran solution was used for next step without further purification (91% weight assay yield). 1H NMR (300 MHz, CDCl3) δ 8.25 (s, 1H), 3.80-3.67 (m, 1H), 3.65 (s, 3H), 3.60-3.56 (m, 4H), 3.21-3.18 (m, 4H), 3.14 (dd, J=16.2, 9.0 Hz, 1H), 2.81 (dd, J=16.2, 5.7 Hz, 1H), 1.48 (s, 9H), 1.47 (d, J=7.2 Hz, 3H). HRMS calcd. For C18H28IN4O4 [M+H]+: 491.1150. found 491.1154.

reactant | (R)-methyl 3-(4,6-diiodopyrimidin-5-yl)butanoate | 491 mmol, 212 g | IC1=NC=NC(=C1[C@@H](CC(=O)OC)C)I | C9H10I2N2O2
reactant | Boc-piperazine | 540 mmol, 101 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | N,N-diisopropylethylamine | 540 mmol, 94.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methanol | 424 mL | CO | CH4O
product | (R)-tert-butyl 4-(6-iodo-5-(4-methoxy-4-oxobutan-2-yl)pyrimidin-4-yl)piperazine-1-carboxylate | IC1=C(C(=NC=N1)N1CCN(CC1)C(=O)OC(C)(C)C)[C@H](C)CC(=O)OC | C18H27IN4O4
